US04870074
Preparation of 2-(2-acetoxyethyl)-4-benzylmorpholine
To a mixture of 2-(2-hydroxyethyl)-4-benzylmorpholine (27.7 g), triethylamine (28 ml), and ethyl acetate (100 ml) is dropwise added acetic anhydride (17.8 ml). The reaction mixture is stirred at 25° C. for 1 hour and evaporated under reduced pressure. The residue is dissolved in chloroform and chromatographed on silica gel. Fractions containing the title compound are pooled and evaporated to give the title compound (29.1 g) as an oil.

reactant | 2-(2-hydroxyethyl)-4-benzylmorpholine | 27.7 g | OCCC1CN(CCO1)CC1=CC=CC=C1 | C13H19NO2
reactant | triethylamine | 28 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 17.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-acetoxyethyl)-4-benzylmorpholine | 29.1 g | C(C)(=O)OCCC1CN(CCO1)CC1=CC=CC=C1 | C15H21NO3
